US09061030B2
A suspension of methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-ylcarbamate (I-60, 0.16 mmol) in DMF (3.0 mL) at 0° C. was treated with sodium hydride (1.1 equiv). After 15 min, the reaction mixture was warmed to ambient temperature and stirred for 15 min. The reaction was cooled to 0° C. and iodomethane (1.1 equiv) was added. The resultant mixture was brought to ambient temperature and stirred for 20 min. Water was added and the aqueous mixture was extracted with EtOAc and iPrOH/CH2Cl2 (1:4). The organic phases were dried over Na2SO4, filtered, conc. and purified using SiO2 chromatography and an appropriate gradient (CH3CN/MeOH/CH2Cl2) to afford methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-yl(methyl)carbamate as an off-white solid (81% yield).

reactant | methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-ylcarbamate | 0.16 mmol | NC1=NC(=NC(=C1NC(OC)=O)N)C1=NN(C(=N1)C=1SC=CN1)CC1=C(C=CC=C1)F | C18H16FN9O2S
reactant | sodium hydride | 1.1 equiv | [H-].[Na+]
reactant | iodomethane | 1.1 equiv | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | CH3CN MeOH CH2Cl2 | CC#N.CO.C(Cl)Cl
product | methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-5-yl(methyl)carbamate | 81% yield | NC1=NC(=NC(=C1N(C(OC)=O)C)N)C1=NN(C(=N1)C=1SC=CN1)CC1=C(C=CC=C1)F | C19H18FN9O2S
